US07196114B2
c) 5-(3-Aminothiophen-2-yl)-3H-[1,3,4]oxadiazol-2-one hydrochloride
The mixture consisting of 100 mg of tert-butyl [2-(5-oxo-4,5-dihydro[1,3,4]oxadiazol-2-yl)thiophen-3-yl]carbamate and 5 ml of a 4 molar HCl solution in dioxane is stirred for one hour. Afterwards, the volatile fractions are removed under reduced pressure and the residue is stirred with 5 ml of tert-butyl methyl ether and the product is filtered off with suction and dried under reduced pressure.

reactant | tert-butyl [2-(5-oxo-4,5-dihydro[1,3,4]oxadiazol-2-yl)thiophen-3-yl]carbamate | 100 mg | O=C1NN=C(O1)C=1SC=CC1NC(OC(C)(C)C)=O | C11H13N3O4S
reactant | HCl | 4 molar | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(3-Aminothiophen-2-yl)-3H-[1,3,4]oxadiazol-2-one hydrochloride | Cl.NC1=C(SC=C1)C1=NNC(O1)=O | InChI=1S/C6H5N3O2S.ClH/c7-3-1-2-12-4(3)5-8-9-6(10)11-5;/h1-2H,7H2,(H,9,10);1H
